US06403601B1
(e) 3,4-Dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A mixture of 3,4-dimethoxy-1-naphthalenecarboxylic acid (2.34 g, 10.1 mmol) and 10% Pd/C (0.56 g) in HOAc (50 mL) was hydrogenated on Parr apparatus at 60° C. and 50 psi for 14 h. After filtration through diatomaceous earth, the solvent was removed in vacuo and water was added. The solid was collected by filtration and washed with water to yield the title compound as a yellow solid (2.21 g, 93%). 1H NMR (DMSO-d6) δ 12.69 (s, 1H), 7.30 (s, 1H), 3.79 (s, 3H), 3.73 (s, 3H), 2.91 (s, 2H), 2.65 (s, 2H), 1.64 (m, 4H); MS m/z 235 (M−H).

reactant | 3,4-dimethoxy-1-naphthalenecarboxylic acid | 10.1 mmol, 2.34 g | COC=1C=C(C2=CC=CC=C2C1OC)C(=O)O | C13H12O4
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.56 g | [Pd] | Pd
product | 3,4-Dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 2.21 g, 93% | COC=1C=C(C=2CCCCC2C1OC)C(=O)O | C13H16O4
